### PR TITLE
[Merged by Bors] - feat: review and expand API on behavior of topological bases under some constructions

### PR DESCRIPTION
**Pull request by ADedecker**
The main addition is `IsTopologicalBasis.inf` (see https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Inf.20of.20a.20pair.20of.20topologies/near/419989448), and I also reordered things to be in the more typical order (deducing the `Pi` version from the `iInf` version rather than the converse).

Also a few extra golfs and variations.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Bases.lean [hunk 1]
```diff
@@ -124,16 +124,13 @@ member of `s`, then `s` is a topological basis. -/
 theorem isTopologicalBasis_of_isOpen_of_nhds {s : Set (Set α)} (h_open : ∀ u ∈ s, IsOpen u)
```
Comment (urkud) [inline Mathlib/Topology/Bases.lean:124]: Could you please add `IsTopologicalBasis.of_hasBasis_nhds` version that assumes `h_open` and your first `have`? While the `HasBasis` assumption is formally stronger, we may have a `HasBasis` statement coming from some generic lemma about `Filter`s.

File: Mathlib/Topology/Bases.lean [hunk 2]
```diff
@@ -546,59 +559,59 @@ theorem IsSeparable.of_subtype (s : Set α) [SeparableSpace s] : IsSeparable s :
   simpa using isSeparable_range (continuous_subtype_val (p := (· ∈ s)))
 #align topological_space.is_separable_of_separable_space_subtype TopologicalSpace.IsSeparable.of_subtype
 
-@[deprecated] -- Since 2024/02/05
+@[deprecated IsSeparable.of_subtype] -- Since 2024/02/05
```
Comment (urkud) [inline Mathlib/Topology/Bases.lean:562]: Doesn't `@[deprecated] alias a := b` autogenerate correct hint?

File: Mathlib/Topology/Bases.lean [hunk 3]
```diff
@@ -546,59 +559,59 @@ theorem IsSeparable.of_subtype (s : Set α) [SeparableSpace s] : IsSeparable s :
...
 
-@[deprecated] -- Since 2024/02/05
+@[deprecated IsSeparable.of_separableSpace] -- Since 2024/02/05
 alias isSeparable_of_separableSpace := IsSeparable.of_separableSpace
 
 end TopologicalSpace
 
 open TopologicalSpace
 
+theorem isTopologicalBasis_iInf {β : Type*} {ι : Type*} {t : ι → TopologicalSpace β}
```
Comment (urkud) [inline Mathlib/Topology/Bases.lean:576]: Rename to `IsTopologicalBasis.iInf` to allow the new-style dot notation? Also, since you're adding a primed version, please add docstrings explaining the differences.

File: Mathlib/Topology/Bases.lean [hunk 4]
```diff
@@ -546,59 +559,59 @@ theorem IsSeparable.of_subtype (s : Set α) [SeparableSpace s] : IsSeparable s :
...
+  · intro a u ha hu
+    rcases (nhds_iInf (t := t) (a := a)).symm ▸ hasBasis_iInf'
+      (fun i ↦ (h_basis i).nhds_hasBasis (t := t i)) |>.mem_iff.1 (hu.mem_nhds ha)
+      with ⟨⟨F, U⟩, ⟨hF, hU⟩, hUu⟩
+    refine ⟨_, ⟨U, hF.toFinset, ?_, rfl⟩, ?_, ?_⟩ <;> simp only [Finite.mem_toFinset, mem_iInter]
+    · exact fun i hi ↦ (hU i hi).1
+    · exact fun i hi ↦ (hU i hi).2
+    · exact hUu
+
+theorem isTopologicalBasis_iInf' {β : Type*} {ι : Type*} {X : ι → Type*}
```
Comment (urkud) [inline Mathlib/Topology/Bases.lean:595]: I guess, this can be called `IsTopologicalBasis.iInf_induced`

File: Mathlib/Topology/Bases.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Topology/Bases.lean:124]: I originally added this version with the hope that it would simplify some proofs below, but it didn't so I just removed it. I can add it back if you want.

File: Mathlib/Topology/Bases.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Topology/Bases.lean:562]: Ah, it does!

File: Mathlib/Topology/Basic.lean [hunk 5]
```diff
@@ -1174,6 +1174,12 @@ theorem isOpen_iff_nhds : IsOpen s ↔ ∀ x ∈ s, 𝓝 x ≤ 𝓟 s :=
     _ ↔ ∀ x ∈ s, 𝓝 x ≤ 𝓟 s := by simp_rw [interior_eq_nhds, subset_def, mem_setOf]
 #align is_open_iff_nhds isOpen_iff_nhds
 
+theorem TopologicalSpace.ext_iff_nhds {t t' : TopologicalSpace X} :
+    t = t' ↔ ∀ x, @nhds _ t x = @nhds _ t' x :=
+  ⟨fun H x ↦ congrFun (congrArg _ H) _, fun H ↦ by ext; simp_rw [@isOpen_iff_nhds _ _ _, H]⟩
+
+alias ⟨_, TopologicalSpace.ext_nhds⟩ := TopologicalSpace.ext_iff_nhds
```
Comment (urkud) [inline Mathlib/Topology/Basic.lean:1181]: Same as `eq_of_nhds_eq_nhds`. Please turn `eq_of_nhds_eq_nhds` into a deprecated alias.

File: Mathlib/Topology/Bases.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Topology/Bases.lean:135]: Let me try.

Comment (urkud) [reply Mathlib/Topology/Bases.lean:133]: I golfed a bit by using `aesop`. Feel free to revert if you don't like it.

Comment (ADedecker) [reply Mathlib/Topology/Bases.lean:133]: Ah right, I didn't try aesop. I'll have a closer look but it looks good.

**Comment by urkud** [comment]
LGTM but I contributed too much to merge it myself.
maintainer merge
